US08012974B2
Benzhydrylidene-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine (91 mg, 0.206 mmol), NaOAc (41 mg, 0.494 mmol) and NH2OH HCl (26 mg, 0.371 mmol) were dissolved in MeOH (2 mL) and stirred at RT overnight, and partitioned between EtOAc and brine. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (12 g SiO2, hexanes/EtOAc 0-90% EtOAc) to give 41 mg of 7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine as a yellow solid (71% yield).

reactant | Benzhydrylidene-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine | 0.206 mmol, 91 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C=C2C)COCC[Si](C)(C)C | C26H30N4OSi
reactant | NaOAc | 0.494 mmol, 41 mg | CC(=O)[O-].[Na+]
reactant | NH2OH HCl | 0.371 mmol, 26 mg | NO.Cl
solvent | MeOH | 2 mL | CO | CH4O
product | 7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine | 41 mg, 71% yield | CC1=CN(C2=NC=C(N=C21)N)COCC[Si](C)(C)C | C13H22N4OSi
